US07501447B2
Step B. Methyl(4-fluoro-3-nitrophenyl)carbamate
Methyl chloroformate (13.2 mL, 170.2 mmol) was added dropwise to a cold (0° C.) dichloromethane (200 mL) solution of 4-fluoro-3-nitro aniline (24.15 g, 154.7 mmol) and DIPEA (35 mL, 201 mmol). The reaction mixture was stirred at rt overnight. The solution was then diluted with 200 mL of dichloromethane and washed with 2M HCl, brine and dried over anhydrous MgSO4. The solvent was concentrated and the product directly used in the next step without further purification. Yield: 35.5 g (99%); 1H NMR (400 MHz, CHLOROFORM-D) δ 3.81 (s, 3H), 7.02 (s, 1H), 7.23 (m, 1H), 7.72 (d, J-=8.59 Hz, 1H), 8.17 (dd, J=6.35, 2.64 Hz, 1H).

reactant | Methyl chloroformate | 170.2 mmol, 13.2 mL | ClC(=O)OC | C2H3ClO2
reactant | 4-fluoro-3-nitro aniline | 154.7 mmol, 24.15 g | FC1=C(C=C(N)C=C1)[N+](=O)[O-] | C6H5FN2O2
reactant | DIPEA | 201 mmol, 35 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | dichloromethane | 200 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 200 mL | ClCCl | CH2Cl2
product | Methyl(4-fluoro-3-nitrophenyl)carbamate | COC(NC1=CC(=C(C=C1)F)[N+](=O)[O-])=O | C8H7FN2O4
